US06002008
N-{3-cyano-4-[(3-methoxyphenyl)amino]-6-quinolinyl}-4-piperidino-2-butynamide
Partially dissolved 1.21 (7.22 mmol) 4-piperidino-2-butynoic acid in 100 ml THF and chilled to 0° C. under N2. Added 955 μl (8.67 mmol) N-methylmorpholine and 750 μl (5.78 mmol) isobutyl chloroformate. Stirred for 40 minutes and added a solution of 840 mg (2.89 mmol) 6-amino-4-[(3-methoxyphenyl)amino]-3-quinolinecarbonitrile dissolved in 10 ml hot pyridine. At 2 hours, poured into ice water and made basic with saturated sodium bicarbonate. Extracted with ethyl acetate, dried with sodium sulfate, and stripped down to a small volume, which was loaded onto a column of silica gel. Eluted with 10% methanol/ethyl acetate, stripped solvent of desired fractions, and dried in vacuo, giving 970 mg of green solid: mass spectrum (electrospray m/e): M+H=440.1.

reactant | 4-piperidino-2-butynoic acid | N1(CCCCC1)CC#CC(=O)O | C9H13NO2
reactant | N-methylmorpholine | 8.67 mmol, 955 μl | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 5.78 mmol, 750 μl | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 6-amino-4-[(3-methoxyphenyl)amino]-3-quinolinecarbonitrile | 2.89 mmol, 840 mg | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=CC=C1)OC | C17H14N4O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | N-{3-cyano-4-[(3-methoxyphenyl)amino]-6-quinolinyl}-4-piperidino-2-butynamide | 970 mg | C(#N)C=1C=NC2=CC=C(C=C2C1NC1=CC(=CC=C1)OC)NC(C#CCN1CCCCC1)=O | C26H25N5O2
